US07504408B2
N-[5-chloro-7-(4-methoxybut-1-yn-1-yl)-1,3-benzodioxol-4-yl]-6-methoxy-7-[3-(4-methoxypiperidin-1-yl)propoxy]quinazolin-4-amine
This was prepared using the method described in example 13 using N-[5-chloro-7-(4-methoxybut-1-yn-1-yl)-1,3-benzodioxol-4-yl]-7-(3-chloropropoxy)-6-methoxyquinazolin-4-amine (200 mg, 0.40 mmol) and 4-methoxypiperidine (246 mg, 2.14 mmol) in 2-methoxyethanol (4 ml). The crude product was purified by column chromatography on silica using increasing concentrations of methanolic ammonia in dichloromethane as eluent. There was thus obtained the title compound (184 mg, 80%) as a pale yellow solid; NMR Spectrum:(CDCl3) 1.55-1.70 (m, 2H), 1.85-2.00 (m, 2H), 2.10 (quintet, 2H), 2.24 (m, 2H), 2.56 (t, 2H), 2.72 (t, 2), 2.78 (m, 2H), 3.24 (m, 1H), 3.34 (s, 3H), 3.42 (s, 3H), 3.62 (t, 2H), 3.98 (s, 3H), 4.24 (t, 2H), 6.05 (s, 2H), 6.90 (s, 1H), 7.04 (s, 1H), 7.09 (s, 1H), 7.28 (s, 1H), 8.61 (s, 1H); Mass Spectrum: M+H+ 583/585.

reactant | N-[5-chloro-7-(4-methoxybut-1-yn-1-yl)-1,3-benzodioxol-4-yl]-7-(3-chloropropoxy)-6-methoxyquinazolin-4-amine | 0.40 mmol, 200 mg | ClC1=C(C2=C(OCO2)C(=C1)C#CCCOC)NC1=NC=NC2=CC(=C(C=C12)OC)OCCCCl | C24H23Cl2N3O5
reactant | 4-methoxypiperidine | 2.14 mmol, 246 mg | COC1CCNCC1 | C6H13NO
solvent | 2-methoxyethanol | 4 ml | COCCO | C3H8O2
product | N-[5-chloro-7-(4-methoxybut-1-yn-1-yl)-1,3-benzodioxol-4-yl]-6-methoxy-7-[3-(4-methoxypiperidin-1-yl)propoxy]quinazolin-4-amine | 184 mg, 80% | ClC1=C(C2=C(OCO2)C(=C1)C#CCCOC)NC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCC(CC1)OC | C30H35ClN4O6
